US05688807
To a stirred, cooled (0° C.) suspension of 2-methoxyphenylhydrazine hydrochloride (14.44 g, 83 mmol.) in THF (600 mL) was added 4-chlorobutanal (9.0 g, 84 mmol.) followed by dropwise addition of triethylamine (8.6 g, 85 mmol.) in THF (20 mL). Upon complete addition, the cooling bath was removed and the solution stirred for 1 hour. The reaction mixture was filtered and the filter cake washed with THF (100 mL). The combined filtrates were concentrated to an orange oil, which was dissolved in methanol (150 mL) and water (5 mL). The solution was transferred to a sealable tube and purged with nitrogen for 10 minutes. The tube was sealed and placed in an oilbath preheated to 95° C. After heating for 14 hours, the reaction mixture was cooled to ambient temperature and concentrated under reduced pressure. The residue was partitioned between saturated aqueous potassium carbonate and 3:1 chloroform:2-propanol. The organic phase was dried over sodium sulfate and concentrated. The residue was purified by flash chromatography on silica gel (15% methanol, 0.2% NH4OH, in chloroform as eluent). The fractions containing product were pooled and concentrated under reduced pressure. The residue was dissolved in methanol and treated with dry HCl and concentrated to afford 7-methoxytryptamine hydrochloride (4.04 g) as a stable foam, which was used without further purification.

reactant | 2-methoxyphenylhydrazine hydrochloride | 83 mmol, 14.44 g | Cl.COC1=C(C=CC=C1)NN
reactant | 4-chlorobutanal | 84 mmol, 9.0 g | ClCCCC=O | C4H7ClO
reactant | triethylamine | 85 mmol, 8.6 g | C(C)N(CC)CC | C6H15N
solvent | THF | 600 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 7-methoxytryptamine hydrochloride | 4.04 g | Cl.COC1=C2NC=C(CCN)C2=CC=C1 | InChI=1S/C11H14N2O.ClH/c1-14-10-4-2-3-9-8(5-6-12)7-13-11(9)10;/h2-4,7,13H,5-6,12H2,1H3;1H
